US08445505B2
A mixture of 4,4,4,4-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane (532.0 mg, 2.0 mmol), 4-bromo-2-fluoro-5-methylaniline (406.0 mg, 2.0 mmol), tetrakis(triphenylphosphine)palladium(0) (231.1 mg, 0.2 mmol), cesium fluoride (912.0 mg, 6.0 mmol), 1,2-dimethoxyethane (4 mL) and methanol (2 mL) was degassed for 5 min and then heated at 130° C. in a microwave reactor for 15 min. The reaction was concentrated in vacuo, and purified by silica chromatography (EtOAC/Hexanes:3/7) to afford 2-fluoro-5-methyl-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)aniline; ESMS m/z 264.1 (M+H+).

reactant | 4-bromo-2-fluoro-5-methylaniline | 2.0 mmol, 406.0 mg | BrC1=CC(=C(N)C=C1C)F | C7H7BrFN
reactant | cesium fluoride | 6.0 mmol, 912.0 mg | [F-].[Cs+]
reactant | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 231.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 2 mL | CO | CH4O
product | 2-fluoro-5-methyl-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)aniline | FC1=C(N)C=C(C(=C1)C1=CCC2(OCCO2)CC1)C | C15H18FNO2
